Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[O:8]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-0.3800900431989999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[O:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8][C:9]([H:10])([H:11])[O:12]1,0.3610791218999999
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:7],4.17067049219
[H:6].[O:1]=[C:2][O:3][C:4]([H:5])=[C:7]([H:8])[H:9]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-1.78337940866
[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.2452325013
[H:1][O:2][C:3][C:10]([C:4][C:5]([H:6])=[C:7]([H:8])[H:9])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]1([H:11])[H:12],-3.82932635767
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:5],3.4498435641300005
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.0125082379500006
[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-1.26374737405
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],2.08804366106
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])#[C:10][H:11].[H:1][C:2](/[C:3]([H:4])=[C:7]/[O:8][H:9])([H:12])[H:13],-0.0426919793994999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.8139243545
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:3]([O:4])[C:9]([H:10])([H:11])[H:12],1.93949339328
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],3.84027749273
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:7],1.99649620882
[H:1][C:2][O:3][C:4][O:5][H:6]>>[H:1][C:2].[O:3]=[C:4][O:5][H:6],3.149602017
[H:1][C:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][C:2],6.40464566734
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])#[C:5][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:6][H:7],-0.660585337101
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.6376781616
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.33864386943
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.0236735572400004
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9](=[O:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]=[O:10].[H:11],3.95903237527
[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],0.62818992304
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7][O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],-4.92720919165
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.6259445580900005
[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.80783375607
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],1.9925924916
[H:1][C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-4.9909501597300014
